US08957070B2
N-[2-(4-Methyl-1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (0.30 g), bromoacetone (0.10 mL), ethanol (2 mL) and N,N-dimethylacetamide (2 mL) was stirred at 80° C. for 4 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (0.24 g, yield 72%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 181-183° C.

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.30 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(N)=S | C13H11N3O2S3
reactant | bromoacetone | 0.10 mL | BrCC(C)=O | C3H5BrO
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | N-[2-(4-Methyl-1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.24 g, yield 72% | CC=1N=C(SC1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C16H13N3O2S3
